US05521170
To a solution of 2-chloro-3-(4-nitrobenzoyl)aminopyridine (1.93 g) in N,N-dimethylformamide (13 ml) was added sodium hydride (60 % in oil, 585 mg) and the solution was stirred at 0° C. for ten minutes. 3-Dimethylaminopropyl chloride hydrochloride (1.16 g) was added to the solution and the mixture was stirred for 3 hours at 150° C. The solution was diluted with ethyl acetate and the solution was washed with successively with water, saturated aqueous sodium hydrogen carbonate and brine. The organic phase was dried over sodium sulfate and the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (80 g, ethyl acetate:n-hexane =1:3) to give 1-(4-nitrobenzoyl)-5-methyl-2,3,4,5-tetrahydropyrido [3,2 -b][1,4]diazepine (450 mg).

reactant | 2-chloro-3-(4-nitrobenzoyl)aminopyridine | 1.93 g | ClC1=NC=CC=C1NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H8ClN3O3
reactant | sodium hydride | 585 mg | [H-].[Na+]
reactant | 3-Dimethylaminopropyl chloride hydrochloride | 1.16 g | Cl.CN(CCCCl)C
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-nitrobenzoyl)-5-methyl-2,3,4,5-tetrahydropyrido [3,2 -b][1,4]diazepine | 450 mg | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(N(CCC2)C)N=CC=C3)C=C1 | C16H16N4O3
